US06472416B1
1E(i). 3-(4-Fluorophenyl)-2-(4-(methylsulphonyl)phenyl)-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine
Alternatively, the desired compound was prepared according to the method of Example 5D, starting with 4-(4-fluorophenyl)-3-hydroxy-5-(4-(methylsulphonyl)phenyl)-pyrazole and substituting 1,3-dibromopropane in place of 1,2-dibromo ethane (yield: 150 mg, 81%). MS (APCI+) m/z 373 (M+H)+; (APCI−) m/z 371 (M−H)−; 1H NMR (300 MHz, DMSO-d6) δ2.27 (m, 2H), 3.23 (s, 3H), 4.20 (t, J=7 Hz, 2H), 4.38 (d, J=7 Hz, 2H), 7.20 (m, 4H), 7.60 (d, J=9 Hz, 2H), 7.87 (d, J=9 Hz, 2H); Anal. calc. for C19H17FN2O3S; C, 61.27; H, 4.60; N, 7.52. Found: C, 60.93; H, 4.48; N, 7.34.

reactant | 4-(4-fluorophenyl)-3-hydroxy-5-(4-(methylsulphonyl)phenyl)-pyrazole | FC1=CC=C(C=C1)C=1C(=NNC1C1=CC=C(C=C1)S(=O)(=O)C)O | C16H13FN2O3S
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
product | 3-(4-Fluorophenyl)-2-(4-(methylsulphonyl)phenyl)-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine | FC1=CC=C(C=C1)C=1C(=NN2C1OCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C19H17FN2O3S
